Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
facial/dental pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt is a ___ y.o male with h.o DM who presented with facial pain 
and swelling starting on ___. Pt states pain is ___, sharp, 
started in his upper R.tooth and spread to his cheek. He states 
that he has had this before and last saw his dentist for this 
___. He reports that his dentist is now out of the country. 
He denies any fever, chills, odynophagia, dysphagia, sob, 
respiratory difficulties, blurred vision or any eye pain. He 
reports taking antibiotics for this in the past. 
Other 10pT Ros Reviewed and otherwise negative including 
headache, dizziness, neck pain, cp, sob, abdominal pain, 
n/v/d/c/dysuria, rash. 
In the ED, pt was given his home medications and IV clindamycin. 
Per ED report, improvement with IV antibiotics. No fevers noted.
 
Past Medical History:
Diabetes
prior dental infection 
bipolar disorder vs. schizoaffective disorder 
 
Social History:
___
Family History:
denies any family history including of DM
 
Physical Exam:
GEN: well appearing, NAD
vitals:99.1
PO 133 / 84 84 18 95 RA 
HEENT: ncat, R.sided cheek and up to eye erythema and swelling. 
Most prominent in the perinasal/cheek area. EOMI, anicteric MMM
neck: supple, no LAD
chest: b/l ae no w/c/r
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, ND,no guarding or rebound
ext: no c/c/e 2+pulses
neuro: face symmetric, speech fluent
psych: calm, cooperative 

 
Pertinent Results:
___ 03:54PM   LACTATE-2.0
___ 03:40PM   GLUCOSE-133* UREA N-6 CREAT-0.7 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-25 ANION GAP-19
___ 03:40PM   estGFR-Using this
___ 03:40PM   WBC-11.1* RBC-5.14 HGB-16.1 HCT-47.6 MCV-93 
MCH-31.3 MCHC-33.8 RDW-11.8 RDWSD-40.2
___ 03:40PM   NEUTS-68.4 ___ MONOS-8.6 EOS-2.0 
BASOS-0.5 IM ___ AbsNeut-7.57* AbsLymp-2.22 AbsMono-0.95* 
AbsEos-0.22 AbsBaso-0.05
___ 03:40PM   PLT COUNT-___ y.o man with h.o DM and prior dental infection who presents 
with a peridental infection and surrounding cellulitis.

#periodontal infection, likely originating per dental in teeth 5 
and 6, with facial swelling.  Markedly improved with IV unasyn 
for 48 hours, transitioned to oral augmentin ER.  Discussed with 
___ (see note), the will not extract teeth as inpt if pt 
improving - as he is, plan will be for extraction in clinic day 
after d/c (___) at ___.  Pt. and wife informed. 

#diabetes-type 2 no known complications. HISS while inpt. DM 
diet. Held oral agents, resume at d/c.

#bipolar vs. schizoaffective disorder-continued home quetiapine 
and perphenazine 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. GlipiZIDE XL 2.5 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Perphenazine 12 mg PO QHS 
5. QUEtiapine Fumarate 50 mg PO QHS 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice a day Disp #*14 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  GlipiZIDE XL 2.5 mg PO DAILY  
4.  MetFORMIN (Glucophage) 1000 mg PO BID  
5.  Perphenazine 12 mg PO QHS  
6.  QUEtiapine Fumarate 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
odontogenic infection of teeth 5 and 6, improved with 
antibiotics, removal recommended by ___ at their clinic on 
___.  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
see below, and, as I discussed with your wife ___: 

CALL TOMORROW AM AT 0700H FOR APPT TO HAVE TEETH REMOVED 
TOMORROW. 

Pt can call ___ at 7AM for same day appointment in our
Oral Surgery clinic at ___ ___ to ___
- ___
- ___ building ___ floor Oral Surgery clinic

 
Followup Instructions:
___